US07018988B2
(2S)-N1-(3,5-dichlorophenyl)-N2-(9-ethyl-9H-carbazol-3-yl)-4-methylene-1,2-pyrrolidinedicarboxamide
Following the general method as outlined in Example 22, starting from 1-(tert-butoxycarbonyl)-4-methyleneproline, 1,3-dichloro-5-isocyanatobenzene, and 9-ethyl-9H-carbazol-3-amine the title compound was obtained in 40% purity by LC/MS. MS(ESI+): m/z=507.6.

reactant | 1-(tert-butoxycarbonyl)-4-methyleneproline | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)CC(C1)=C | C11H17NO4
reactant | 1,3-dichloro-5-isocyanatobenzene | ClC1=CC(=CC(=C1)N=C=O)Cl | C7H3Cl2NO
reactant | 9-ethyl-9H-carbazol-3-amine | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)N | C14H14N2
product | (2S)-N1-(3,5-dichlorophenyl)-N2-(9-ethyl-9H-carbazol-3-yl)-4-methylene-1,2-pyrrolidinedicarboxamide | ClC=1C=C(C=C(C1)Cl)NC(=O)N1[C@@H](CC(C1)=C)C(=O)NC=1C=CC=2N(C3=CC=CC=C3C2C1)CC | C27H24Cl2N4O2
